US08106215B2
A.3.1 Synthesis of (1R,3aS,3bS,6aR)-5-methyl-1-phenyl-hexahydro-2-oxa-7a-aza-cyclopenta[a]pentalen-7-one
A solution of (1R,3aS,3bS,6aR)-5-methyl-1-phenyl-3a,3b,6,6a-tetrahydro-3H-2-oxa-7a-aza-cyclopenta[a]pentalen-7-one (Jao E. et al Tetrahedron Letters, 2003, 44, 5033-5035) (2.34 g) in EtOH (23 mL) was treated with Pd/C 10% (456 mg) and stirred under hydrogen (1 bar) for 1.5 h. After filtration through celite and removal of the solvents the title compound was obtained as an oil, which was used without further purification.

reactant | (1R,3aS,3bS,6aR)-5-methyl-1-phenyl-3a,3b,6,6a-tetrahydro-3H-2-oxa-7a-aza-cyclopenta[a]pentalen-7-one | 2.34 g | CC=1C[C@@H]2[C@@H]([C@H]3CO[C@@H](N3C2=O)C2=CC=CC=C2)C1 | C16H17NO2
solvent | EtOH | 23 mL | CCO | C2H6O
catalyst | Pd/C | 456 mg | [Pd] | Pd
product | (1R,3aS,3bS,6aR)-5-methyl-1-phenyl-hexahydro-2-oxa-7a-aza-cyclopenta[a]pentalen-7-one | CC1C[C@@H]2[C@@H]([C@H]3CO[C@@H](N3C2=O)C2=CC=CC=C2)C1 | C16H19NO2
